US05426102
69.5 ml of a 1.6 molar solution of n-butyllithium in hexane are mixed with 60 ml of absolute tetrahydrofuran. The mixture is cooled to -60° C. and 10 ml of 3-bromofuran are added dropwise at such a rate that the internal temperature does not exceed -50° C.. When the addition is complete, the whole is stirred for 15 minutes at -60° C. and then 33.2 ml of tributyltin chloride are added dropwise, during the course of which the internal temperature is not allowed to exceed -50° C.. When the addition is complete, the reaction solution is allowed to come to -10° C. and is then stirred for one hour at that temperature. The solution is then carefully quenched with water. The aqueous phase is extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride solution and dried over sodium sulphate. It is filtered off and the solvent is removed in vacuo. The crude product obtained is purified by distillation in a high vacuum. 30.14 g of (3-furanyl)tributylstannane are obtained in the form of a light-yellow oil (boiling point=100°-104° C. at 0.09 torr).

reactant | n-butyllithium | C(CCC)[Li]
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | 3-bromofuran | 10 ml | BrC1=COC=C1 | C4H3BrO
reactant | tributyltin chloride | 33.2 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | hexane | CCCCCC | C6H14
product | (3-furanyl)tributylstannane | 30.14 g | O1C=C(C=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C4H3O.3C4H9.Sn/c1-2-4-5-3-1;3*1-3-4-2;/h1,3-4H;3*1,3-4H2,2H3;
